US06303593B1
A solution of 0.173 g (0.44 mmol) of 1-butyloxycarbonyl(cis)-3-(chloroacetoxy)-4-(3-phenylpropyl)piperidine and 0.30 g (2.2 mmol) of K2CO3 in 5 mL of methanol was stirred at rt for 24 h. To the reaction mixture was added 20 mL of sat'd NaCl solution and the mixture was extracted with ether. The combined organic fractions were dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:ethyl acetate, 1:1) to give 1-butyloxycarbonyl (cis)-3-hydroxy-4-(3-phenylpropyl)piperidine. Removal of the BOC protecting group was achieved as described in Example 233, Step 6 to give the title compound.

reactant | 1-butyloxycarbonyl(cis)-3-(chloroacetoxy)-4-(3-phenylpropyl)piperidine | 0.44 mmol, 0.173 g | C(CCC)OC(=O)N1C[C@H]([C@H](CC1)CCCC1=CC=CC=C1)OC(CCl)=O | C21H30ClNO4
reactant | K2CO3 | 2.2 mmol, 0.30 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaCl | 20 mL | [Na+].[Cl-]
solvent | methanol | 5 mL | CO | CH4O
product | 1-butyloxycarbonyl (cis)-3-hydroxy-4-(3-phenylpropyl)piperidine | C(CCC)OC(=O)N1C[C@H]([C@H](CC1)CCCC1=CC=CC=C1)O | C19H29NO3
